US07666878B2
1M Aqueous NaOH (0.5 mL) is added to a stirring solution of (2-methyl-1-pyridin-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (35 mg, 0.12 mmol) in 1:1 THF/MeOH (2 mL). After 2 hours, the reaction is evaporated and the residue dissolved in water. The aqueous solution is acidified to pH 3-4, and the resulting precipitate collected by filtration to furnish (2-methyl-1-pyridin-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid; MH+=282.

reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
reactant | (2-methyl-1-pyridin-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.12 mmol, 35 mg | COC(CC1=C(N(C2=NC=CC=C21)CC=2C=NC=CC2)C)=O | C17H17N3O2
solvent | THF MeOH | 2 mL | C1CCOC1.CO
product | (2-methyl-1-pyridin-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid | CC1=C(C=2C(=NC=CC2)N1CC=1C=NC=CC1)CC(=O)O | C16H15N3O2
